US09034866B2
Synthesis of (R)-9-(3-hydroxy-3-(5-methyl-1,2,4-oxadiazol-3-yl)but-1-yn-1-yl)-4,5-dihydrobenzo[b]pyrazolo[1,5-d][1,4]oxazepine-2-carboxamide
A mixture of 9-iodo-4,5-dihydrobenzo[b]pyrazolo[1,5-d][1,4]oxazepine-2-carboxamide (100 mg, 0.28 mmol), (R)-2-(5-methyl-[1,2,4]oxadiazol-3-yl)-but-3-yn-2-ol (70 mg, 0.46 mmol), and copper(I) iodide (10 mg, 0.05 mmol) in piperidine (1.5 ml) was sonicated under a stream of argon for 15 minutes. After the addition of tetrakis(triphenylphosphine)palladium (0) (40 mg, 0.035 mmol) the mixture was heated at 60° C. for 3 hours before the being concentrated. The residue was taken up in ethyl acetate (100 ml) and pre-absorbed onto a small amount of silica. Purification by FCC (silica, 0-10% methanol in dichloromethane) gave a solid residue, which was re-crystallised from heptane/dichloromethane (˜10 ml, 2/1). Filtration and drying of the crystalline material under high vacuum provided 53 mg (40%) of the title compound. 1H NMR (500 MHz, DMSO-d6) δ ppm 1.83 (3H, s), 2.61 (3H, s), 3.17 (2H, t, J=5.80 Hz), 4.49 (2H, t, 0.1=5.80 Hz), 6.71 (1H, s), 6.74 (1H, s), 7.22 (1H, d, J=8.39 Hz), 7.35 (1H, s), 7.38 (1H, dd, J=8.32, 2.06 Hz), 7.81 (1H, s), 8.03 (1H, d, J=1.98 Hz); M+1=380.

reactant | 9-iodo-4,5-dihydrobenzo[b]pyrazolo[1,5-d][1,4]oxazepine-2-carboxamide | 0.28 mmol, 100 mg | IC1=CC2=C(OCCC=3N2N=C(C3)C(=O)N)C=C1 | C12H10IN3O2
reactant | (R)-2-(5-methyl-[1,2,4]oxadiazol-3-yl)-but-3-yn-2-ol | 0.46 mmol, 70 mg | CC1=NC(=NO1)[C@@](C)(C#C)O | C7H8N2O2
solvent | piperidine | 1.5 ml | N1CCCCC1 | C5H11N
catalyst | copper(I) iodide | 0.05 mmol, 10 mg | [Cu]I
catalyst | tetrakis(triphenylphosphine)palladium | 0.035 mmol, 40 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (R)-9-(3-hydroxy-3-(5-methyl-1,2,4-oxadiazol-3-yl)but-1-yn-1-yl)-4,5-dihydrobenzo[b]pyrazolo[1,5-d][1,4]oxazepine-2-carboxamide | 53 mg, 40% | O[C@@](C#CC1=CC2=C(OCCC=3N2N=C(C3)C(=O)N)C=C1)(C)C1=NOC(=N1)C | C19H17N5O4
